US08071600B2
A dichloromethane solution (5 ml) of 5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1-methyl-1H-pyrazol-3-yl-amine (0.27 g, 0.73 mmol) was cooled on ice. To this, triethylamine (0.36 ml, 2.5 mmol), dimethylcarbamoyl chloride (0.20 ml, 2.1 mmol) and pyridine (0.06 ml, 0.73 mmol) were added and the mixture was stirred at room temperature overnight. To the reaction solution, water was added and the reaction solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and thereafter concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (n-hexane:ethyl acetate=3:1→0:1). The purified product was concentrated under reduced pressure and the residue was dissolved in ethyl acetate and a 4N-hydrochloride/ethyl acetate solution was added thereto. The crystal produced was filtrated and dried to obtain 3-{5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1-methyl-1H-pyrazol-3-yl}-1,1-dimethyl-urea hydrochloride (0.10 g, 30% yield), as light yellow powder.

reactant | 5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1-methyl-1H-pyrazol-3-yl-amine | 0.73 mmol, 0.27 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC(=NN2C)N | C19H25N5OS
reactant | triethylamine | 2.5 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 2.1 mmol, 0.20 ml | CN(C(=O)Cl)C | C3H6ClNO
reactant | pyridine | 0.73 mmol, 0.06 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-{5-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-1-methyl-1H-pyrazol-3-yl}-1,1-dimethyl-urea hydrochloride | 0.10 g, 30% yield | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC(=NN2C)NC(N(C)C)=O | InChI=1S/C22H30N6O2S.ClH/c1-25(2)22(29)23-20-16-21(26(3)24-20)30-14-5-9-27-10-12-28(13-11-27)18-6-4-7-19-17(18)8-15-31-19;/h4,6-8,15-16H,5,9-14H2,1-3H3,(H,23,24,29);1H
